US06576766B1
(b) 2-Acetylamino-3-[3-(diethoxy-phosphoryl)-4-hydroxy-phenyl]-propionic Acid Methyl Ester
To 2-Acetylamino-3-(3-bromo-4-hydroxy-phenyl)-propionic acid methyl ester (3 g, 9 mmol), diethyl phosphite (1.6 ml, 11 mmol) and 4-methylmorpholine (1.5 mL, 13.5 mmol) in toluene (10 mL) and MeCN (10 mL) was added Pd(Ph3)4 (0.5 g, 0.45 mmol). The mixture was allowed to stir for two days at 100° C. It was then diluted with saturated NH4Cl and extracted with EtOAc. The organic layer was dried over magnesium sulfate, concentrated , and chromatographed over silica gel (5% MeOH/CHCl3) to an oil. MS [M+H]+ 374 and [M−H]− 372.

reactant | 2-Acetylamino-3-(3-bromo-4-hydroxy-phenyl)-propionic acid methyl ester | 9 mmol, 3 g | COC(C(CC1=CC(=C(C=C1)O)Br)NC(C)=O)=O | C12H14BrNO4
reactant | diethyl phosphite | 11 mmol, 1.6 ml | P(OCC)(OCC)[O-]
reactant | 4-methylmorpholine | 13.5 mmol, 1.5 mL | CN1CCOCC1 | C5H11NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeCN | 10 mL | CC#N | C2H3N
solvent | NH4Cl | [NH4+].[Cl-]
product | 2-Acetylamino-3-[3-(diethoxy-phosphoryl)-4-hydroxy-phenyl]-propionic Acid Methyl Ester | COC(C(CC1=CC(=C(C=C1)O)P(=O)(OCC)OCC)NC(C)=O)=O | C16H24NO7P
